US06921759B2
Step 4: Preparation of 2-(aminomethyl)-5-fluoro-N,N-dimethylbenzenesulfonamide
A mixture of 2-(azidomethyl)-5-fluoro-N,N-dimethylbenzenesulfonamide (3.57 g, 13.8 mmol) and 5% palladium on carbon (0.89 g, 25% w/w) in absolute ethanol (100 mL) was stirred under a balloon of hydrogen gas for one hour. The reaction was filtered through a small pack of celite and the filtrate was concentrated in vacuo to a yellow oil. The crude material was purified by preparative HPLC. (Gilson semi preparative HPLC system using a Waters Delta pak column (3(10×40 mm I.D.)cartridges, C18, 15 μm pore size) eluting with 5-95% acetonitrile/water (0.1% TFA) at 30 ml/min) to afford the desired product as a white solid.

reactant | 2-(azidomethyl)-5-fluoro-N,N-dimethylbenzenesulfonamide | 13.8 mmol, 3.57 g | N(=[N+]=[N-])CC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H11FN4O2S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.89 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(aminomethyl)-5-fluoro-N,N-dimethylbenzenesulfonamide | NCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H13FN2O2S
